US08217064B2
2-(3-Fluoro-4-nitro-phenyl)-2-isobutyl-malonic acid Diethyl Ester
To a solution of 2-isobutylmalonic acid diethyl ester (75.0 g, 0.35 mol) in DMF (200 mL) was added sodium hydride (60% in mineral oil, 13.0 g, 0.57 mol) over 20 min. at 0° C. The reaction mixture was stirred at 0° C. for 0.5 h, then warmed to 25° C. The reaction mixture was cooled down to 0° C. again and a solution of 2,4-difluoronitro-benzene (50.0 g, 0.31 mol) in DMF (150 mL) was added dropwise at 0° C. The reaction mixture was stirred at 25° C. for 16 h. After cooling, the reaction mixture was poured into ice water (200 mL) and extracted with EtOAc (3×100 mL). The combined organic phases washed with water (3×100 mL), brine (100 mL), and dried (MgSO4). Evaporation of the solvent under reduced pressure gave a brown oil. The crude product (92.0 g, 82%) was used for the next step without purification. 1H NMR (300 MHz, CDCl3/TMS): δ 8.03 (t, J=8.4 Hz, 1H), 7.70 (dd, J=12.9, 1.7 Hz, 1H), 7.47 (d, J=8.5 Hz, 1H), 4.25-4.18 (m, 4H), 2.28 (d, J=6.3 Hz, 2H), 1.54-1.45 (m, 1H), 1.25 (t, J=7.0 Hz, 6H), 0.82 (d, J=7.0 Hz, 6H); 13C NMR (75 MHz, CDCl3/TMS): δ 169.2, 154.5 (d, 1JCF=263.1 Hz), 146.9 (d, unresolved), 125.3, 124.1 (d, 3JCF=3.6 Hz), 118.6 (d, 2JCF=23.3 Hz), 62.0, 60.3, 44.1, 24.7, 23.6, 13.9.

reactant | 2-isobutylmalonic acid diethyl ester | 0.35 mol, 75.0 g | C(C)OC(C(C(=O)OCC)CC(C)C)=O | C11H20O4
reactant | sodium hydride | 0.57 mol, 13.0 g | [H-].[Na+]
reactant | 2,4-difluoronitro-benzene | 0.31 mol, 50.0 g | FC1=C(C=CC(=C1)F)[N+](=O)[O-] | C6H3F2NO2
solvent | DMF | 200 mL | CN(C)C=O | C3H7NO
solvent | DMF | 150 mL | CN(C)C=O | C3H7NO
product | 2-(3-Fluoro-4-nitro-phenyl)-2-isobutyl-malonic acid Diethyl Ester | C(C)OC(C(C(=O)OCC)(CC(C)C)C1=CC(=C(C=C1)[N+](=O)[O-])F)=O | C17H22FNO6
